US09403831B2
(S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)piperidin-1-yl)ethanol (Chemical Formula 21)
(S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-5,6-dihydropyridin-1(2H)-yl)ethanol 54 mg (0.11 mmol) was dissolved in methanol 3 ml and methylene chloride 2 ml, and an excess of platinum oxide was added. The mixture was degassed, and a hydrogen balloon was connected, followed by reaction at room temperature for 1 day. After the reaction, the platinum oxide was removed using a celite filter, and separation by PLC (methylene chloride:methanol=5:1) gave a yellow solid 7.7 mg (14%).

reactant | (S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-5,6-dihydropyridin-1(2H)-yl)ethanol | 0.11 mmol, 54 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2=CCN(CC2)CCO | C24H29N11O2
solvent | methanol | 3 ml | CO | CH4O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | platinum oxide | [Pt]=O
product | (S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)piperidin-1-yl)ethanol | 7.7 mg, 14% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C2CCN(CC2)CCO | C24H31N11O2
